US04053608
A mixture of 2 g of 5-nitronicotinic acid and 30 ml. of thionyl chloride was refluxed for 3 hours. Excess thionyl chloride was distilled off to give oily 5-nitronicotinoyl chloride. The acid chloride thus obtained was added to 10 ml of pyridine at -15° C. and 1.4 g of 2-thiophene carboxamide was added thereto. The resulting mixture was stirred at room temperature for 16 hours. The solvent was distilled off under reduced pressure at a temperature below 40° C. and the residue was purified over silica gel chromatography and recrystallized from ethyl acetate-n-hexane to give 200 mg of the desired product. mp 187° C.

reactant | 5-nitronicotinic acid | 2 g | [N+](=O)([O-])C=1C=NC=C(C(=O)O)C1 | C6H4N2O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 5-nitronicotinoyl chloride | [N+](=O)([O-])C=1C=NC=C(C(=O)Cl)C1 | C6H3ClN2O3
